US07700623B2
To a dimethylsulfoxide (4.0 mL) solution of 0.26 g of 2-fluoro-4-[3-(4-piperidinyl)propoxy]benzonitrile and 0.21 g of 4-(3-chloropropoxy)-2-fluorobenzonitrile was added 0.88 mL of N-ethyldiisopropylamine, which was then stirred at 80 to 90° C. for 8 hours and 15 minutes. The reaction mixture was cooled down to room temperature, to which water was then added, followed by extraction with ethyl acetate. The extract was washed twice with water and dried with anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure. The resultant residue was purified using silica gel column chromatography (eluent; chloroform:methanol=10:1) to provide 0.25 g of 4-(3-{1-[3-(4-cyano-3-fluorophenoxy)propyl]-4-piperidinyl}propoxy)-2-fluorobenzonitrile as brown solid form.

reactant | dimethylsulfoxide | 4.0 mL | CS(=O)C | C2H6OS
reactant | 2-fluoro-4-[3-(4-piperidinyl)propoxy]benzonitrile | 0.26 g | FC1=C(C#N)C=CC(=C1)OCCCC1CCNCC1 | C15H19FN2O
reactant | 4-(3-chloropropoxy)-2-fluorobenzonitrile | 0.21 g | ClCCCOC1=CC(=C(C#N)C=C1)F | C10H9ClFNO
reactant | N-ethyldiisopropylamine | 0.88 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | water | O | H2O
product | 4-(3-{1-[3-(4-cyano-3-fluorophenoxy)propyl]-4-piperidinyl}propoxy)-2-fluorobenzonitrile | 0.25 g | C(#N)C1=C(C=C(OCCCN2CCC(CC2)CCCOC2=CC(=C(C#N)C=C2)F)C=C1)F | C25H27F2N3O2
